US09107916B2
A. (1E)-1-(dimethylamino)-5-phenylpent-1-en-3-one
A solution of 4-phenylbutan-2-one (3.96 g, 20 mmol) and DMF-DMA (2.4 g, 20 mmol) in DMF (10 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by silica gel column (PE/EA=4:1-2:1) to give the title compound (1.5 g, 37%) as a yellow oil.

reactant | 4-phenylbutan-2-one | 20 mmol, 3.96 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | DMF-DMA | 20 mmol, 2.4 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1E)-1-(dimethylamino)-5-phenylpent-1-en-3-one | 1.5 g, 37% | CN(\C=C\C(CCC1=CC=CC=C1)=O)C | C13H17NO
